US07611692B2
4-(Aminomethyl)-3-nitrobenzoic acid G (0.8 g; 4 mmol) was dissolved in 10% aq. Na2CO3 (25 mL) and 1,4-dioxane (10 mL) and the solution was cooled to 0° C. A solution of 9-fluorenylmethyl chloroformate (Fmoc-Cl) (1.06 g; 4 mmol) in 1,4-dioxane (10 mL) was added dropwise for 20 min. After 2 h at 0-5° C. and 1 h at 10° C. the reaction mixture was filtered and the solution was acidified to pH 5 by addition of 1 N HCl. The precipitate was filtered, washed with H2O (2×2 mL) dried under vacuum (1.3 kPa; P2O5) to give 4-[[[9H-fluoren-9-ylmethoxy)carbonyl]amino]methyl]-3-nitrobenzoic acid as a white solid (1.6 g; 3.7 mmol). Yield 92%.

reactant | 4-(Aminomethyl)-3-nitrobenzoic acid | NCC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H8N2O4
reactant | 9-fluorenylmethyl chloroformate | 4 mmol, 1.06 g | ClC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C15H11ClO2
solvent | Na2CO3 | 25 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 3-nitrobenzoic acid | Yield 92% | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1 | C7H5NO4
